US08471005B2
(R)-2-Methoxy-N-{3-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-propionamide
N-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-benzene-1,3-diamine (50.0 mg, 0.150 mmol), (R)-(+)-2-Methoxypropionic acid (18.8 mg, 0.180 mmol) N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (34.6 mg, 0.180 mmol) and N,N-Dimethylformamide (0.999 mL, 12.9 mmol) were combined in a vial and stirred at rt for 1 hour. LCMS showed complete conversion to product. Diluted reaction mixture with sat'd NaHCO3 and filtered off resulting ppt. Took ppt up in CH2Cl2 and purified by ISCO silica gel chromatography (0-100%) EtOAc in hexanes to afford title compound (12 mg, 15%) LCMS=419.0 (M+H), HPLC rt=2.935 min, purity=99%. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.74 (d, J=2.1 Hz, 1H), 8.72 (s, 1H), 8.48 (dd, J=2.6 Hz, 8.9H, 1H), 8.31 (s, 1H), 7.89 (s, 1H), 7.38-7.36 (m, 1H), 7.32-7.29 (m, 2H), 6.95-6.92 (m, 2H), 6.89 (d, J=8.6 Hz, 1H), 6.85 (d, J=4.5 Hz, 1H), 4.01 (s, 3H), 3.90-3.85 (m, 1H), 3.45 (s, 3H), 1.48 (d, J=7.1 Hz, 3H).

reactant | N-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-benzene-1,3-diamine | 0.150 mmol, 50.0 mg | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N | C18H16N6O
reactant | (R)-(+)-2-Methoxypropionic acid | 0.180 mmol, 18.8 mg | CO[C@@H](C(=O)O)C | C4H8O3
reactant | N,N-Dimethylformamide | 12.9 mmol, 0.999 mL | CN(C=O)C | C3H7NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (R)-2-Methoxy-N-{3-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-propionamide | 12 mg, 15% | CO[C@@H](C(=O)NC1=CC(=CC=C1)NC1=NN2C(C=N1)=CC=C2C=2C=NC(=CC2)OC)C | C22H22N6O3
